US05866684
94 mg (0.86 mmol) of N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)-propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N1-[3,3,3-trifluoro-1(S)-(dimethoxymethyl)propyl]-L-leucinamide were stirred in a mixture of 4 ml of trifluoroacetic acid, 4 ml of dichloromethane and 30 mg of water at room temperature for 30 minutes. Thesolution was evaporated to dryness in a vacuum and the residue was chromatographed on silica gel using dichloromethane/methanol/acetic acid/water (120:15:3:2) for the elution. There were obtained 41 mg of 2(RS)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-4,4,4-trifluorobutyraldehyde (7:1 mixture of diastereoisomers) as a white solid. MS: m/e 873 [M+H]+.

reactant | N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)-propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N1-[3,3,3-trifluoro-1(S)-(dimethoxymethyl)propyl]-L-leucinamide | 0.86 mmol, 94 mg | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(F)(F)F)C(OC)OC | C53H85F3N6O14
reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
reactant | water | 30 mg | O | H2O
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2(RS)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-4,4,4-trifluorobutyraldehyde | 41 mg | C(=O)(O)CCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(C=O)CC(F)(F)F | C39H55F3N6O13
